.SUBCKT blackbox in out
C_C1         in N14422  100p  TC=0,0 
C_C2         0 out  10n  TC=0,0 
R_R1         N14422 out  10k TC=0,0 
R_R2         0 out  100 TC=0,0 
.ENDS
.END