* source AMPLIDRAINCOMMUN
M_M1         VDD N19598 N194372 N19666 NMOS5P0  
+ L=2u  
+ W=25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=1
V_V1         VDD 0 12Vdc
R_R1         0 N194372  100 TC=0,0 
R_R2         0 N19598  2k TC=0,0 
R_R3         N19598 VDD  1k TC=0,0 
C_C1         N19833 N19598  1n  TC=0,0 
V_V2         N19833 0  AC 1
+SIN 0V 0V 60 0 0 0
X_U1         N200160 BLACKBOXOUT blackbox
V_V3         N200160 0 DC 0Vdc AC 1Vac 
