* source AMPLI SC CMOS
V_V1         VDD 0 5
V_V2         0 VSS 5
R_RD1         N23093 VDD  {RD1} TC=0,0 
M_M1         N23093 N23093 VSS VSS ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M2         OUT N23093 VSS VSS ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M3         OUT IN VDD VDD pcg  
+ L=7.8E-6  
+ W=0.138E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-6  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
V_V3         IN N276751 DC 0Vdc AC 0Vac 
V_V4         N276751 0 {VG}
.PARAM  rd1=33.6k vg=2.74
