* source MIROIR
V_VDD         VDD 0 5
V_VSS         0 VSS 5
R_R1         N00263 VDD  {RD1} TC=0,0 
V_VD2         N00555 0 5
M_M1         N00555 N00263 VSS VSS ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
M_M2         N00263 N00263 VSS VSS ncg  
+ L=7.8E-6  
+ W=0.069E-3  
+ AD=0.161E-8  
+ AS=0.603E-8   
+ PS=0.478E-3  
+ NRD=0.3  
+ NRS=1  
+ NRG=25  
+ NRB=35 
.PARAM  rd1=15k
