* source AMPLIREEL
X_U1         0 N14601 N14535 +12 -12 Ampli_reel  params: Ao=30E3 eo=5mV ip=65pA
+  im=35pA Rid=1.5T Ro=100 
V_V1         +12 0 +12V
V_V2         -12 0 -12V
R_R1         N14601 N14535  5k TC=0,0 
R_R2         N14622 N14601  1k TC=0,0 
V_V3         N14622 0  AC 1
+SIN 0 .1 50 0 0 0
