* source FILTRAGERLC
C_C1         VIN N14397  {Cval}  TC=0,0 
L_L1         N14397 VOUT  {Lval}  
R_R3         0 VOUT  {Rval} TC=0,0 
V_V1         VIN 0 DC 0Vdc AC 1Vac 
.PARAM  amort=1 rval={2*amort*sqrt(lval/cval)} lval={1/(cval*wc**2)} cval=1nf
+  wc={2*3.14159*fc} fc=100khz
