* source R2C2_PASSIF
R_R1         0 OUT  {Rval}  
C_C1         N14549 OUT  {Cval}  
V_V1         IN 0 DC 0Vdc AC 1Vac 
R_R2         IN N14549  {Rval}  
C_C2         0 OUT  {Cval}  
.PARAM  amort=1 rval={1/(cval*wc)} cval=1nf wc={2*3.14159*fc} fc=100khz
