* source CARACTERISTIQUE_DU_NMOS
V_V1         VDD 0 10Vdc
M_M1         VDD N14422 0 0 NMOS5P0  
+ L=5u  
+ W=12.5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=1
V_V2         N14422 0 0Vdc
