* source AMPLIDRAINCOMMUN
V_V1         VDD 0 +5V
V_VGQ         N15987 0 4.14V
R_RS         0 OUT  {RSval} TC=0,0 
V_Vi         IN N15987  AC 1V
+SIN 0 {DeltaVin} 1kHz 0 0 0
C_CL         OUT N16140  180u  TC=0,0 
R_RL         0 N16140  {RLval} TC=0,0 
X_M1         VDD IN OUT BSS87_L1 PARAMS:    
.PARAM  rlval=20 deltavin=2.5v rsval=10 dvin=1
