* source AMPLI SOURCE COMMUNE
V_VDD         VDD 0 10V
R_RD         OUT VDD 33K
R_R1         N14456 VDD 1Meg
R_R2         0 N14456 3Meg
V_V1         IN 0  AC 1V
+SIN 0 {Vin} 10kHz 0 0 0
C_C1         N14456 IN 900p TC=0
C_C2         VDD N18848  100u  TC=0,0 
R_RL         0 N18848  {RLval} TC=0,0 
V_VGS         N20556 0 1V
M_M2         VDD N20556 0 0 NMOS5P0  
+ L=5u  
+ W=12.5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=1
M_M1         OUT N14456 0 0 NMOS5P0  
+ L=5u  
+ W=12.5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=1
.PARAM  vin=1v rlval=1000meg
